US07148226B2
Preparation of Compound (2-Fluoro-4-methoxy-phenyl)-acetonitrile
To a mixture of 1-Bromomethyl-2-fluoro-4-methoxy-benzene (4.5 g, 21 mmol) and Tetrabutylammonium iodide (0.66 g, 2.1 mmol) in CH2Cl2 (50 mL) was added a solution potassium cyanide (4.0 g, 60 mmol) in water (50 mL). The resulting biphasic mixture was stirred vigorously for 8 hours. The reaction was poured into water (100 mL) and extracted with CH2Cl2 (2×50 mL). The organics were washed with water (100 mL) and brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by flash column chromatography (10–30% EtOAc in hexanes) to give the product (2.6 g, 75% yield) as a clear oil. 1H NMR (300 MHz, CDCl3) δ: 3.66 (s, 2 H), 3.82 (s, 3 H), 6.69 (m, 2 H), 7.31 (m, 1 H).

reactant | 1-Bromomethyl-2-fluoro-4-methoxy-benzene | 21 mmol, 4.5 g | BrCC1=C(C=C(C=C1)OC)F | C8H8BrFO
reactant | potassium cyanide | 60 mmol, 4.0 g | [C-]#N.[K+]
catalyst | Tetrabutylammonium iodide | 2.1 mmol, 0.66 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | (2-Fluoro-4-methoxy-phenyl)-acetonitrile | 2.6 g, 75% yield | FC1=C(C=CC(=C1)OC)CC#N | C9H8FNO
